US04501667
In a like manner to Example 1, a solution of sarcosine (8.9 parts by weight), orthophosphorous acid (8.2 parts by weight) in 100 parts by weight of 18% hydrochloric acid is reacted to give, on evaporation, 25.8 parts by weight of 2-(N-methyl-N-carboxymethylamino)phosphonoacetic acid hydrochloride as a pale yellow amorphous solid having a 31P-nmr signal at 13.3 ppm downfield from H3PO4 in water (JP-CH =18H3).

reactant | sarcosine | N(C)CC(=O)O | C3H7NO2
reactant | orthophosphorous acid | P(O)(O)O | H3O3P
reactant | hydrochloric acid | Cl | ClH
product | 2-(N-methyl-N-carboxymethylamino)phosphonoacetic acid hydrochloride | Cl.CN(CC(=O)O)OP(=O)(O)CC(=O)O | InChI=1S/C5H10NO7P.ClH/c1-6(2-4(7)8)13-14(11,12)3-5(9)10;/h2-3H2,1H3,(H,7,8)(H,9,10)(H,11,12);1H
